US04052372
Conversion into ε-(γ-glutamyl)-L-lysine
The 350 g of the L-lysine L-glutamate dihydrate, α-phase, previously prepared, still containing approximately 15% by weight of methanol, are suspended in 0.85 liter of n-amyl alcohol in a nitrogen atmosphere. The n-amyl alcohol is then heated, followed by the distillation at around 70° first of a ternary mixture containing n-amyl alcohol, methanol and water (approximately 0.1 liter) and then of a binary mixture of n-amyl alcohol and water (approximately 0.1 liter). Heating is terminated at the reflux temperature of the n-amyl alcohol i.e. at 138° C. After a total heating time of 20 hours, the precipitate formed is separated by filtration. This gives 400 g of crude product containing ε-(γ-L-glutamyl)-L-lysine and approximately 1 liter of amylic mother liquors from which 20 g of L-pyroglutamic acid are recovered from recycling after conversion into L-glutamic acid. The n-amyl alcohol is purified for recycling.

reactant | L-lysine L-glutamate dihydrate | 350 g | O.O.N[C@@H](CCC(=O)O)C(=O)O.N[C@@H](CCCCN)C(=O)O
reactant | methanol | CO | CH4O
solvent | n-amyl alcohol | 0.85 liter | CCCCCO | C5H12O
product | ε-(γ-glutamyl)-L-lysine | N[C@@H](CCC(=O)C(CCC[C@H](N)C(=O)O)N)C(=O)O | C11H21N3O5
